US05169984
According to the present invention a solution of 3,3',5-triiodo-L-thyronine and bromoacetyl bromide in ethyl acetate is refluxed for a period of time to produce the bromoacetylated hormone which is then fractionated by high speed countercurrent chromatography to yield highly pure N-bromoacetyl-3,3',5-triiodo-L-thyronine.

reactant | 3,3',5-triiodo-L-thyronine | IC=1C=C(C[C@H](N)C(=O)O)C=C(C1OC1=CC(=C(C=C1)O)I)I | C15H12I3NO4
reactant | bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-bromoacetyl-3,3',5-triiodo-L-thyronine | BrCC(=O)N[C@@H](CC1=CC(=C(C(=C1)I)OC1=CC(=C(C=C1)O)I)I)C(=O)O | C17H13BrI3NO5
